US07723381B2
1.5 allyl(1-{4-[methoxy-(2-oxobenzofuran-3-yliden)methyl]phenyl}cyclopropyl)-carbamate (Intermediate E)
1 g of allyl(1-{4-[hydroxy-(2-oxobenzofuran-3-ylidene)methyl]phenyl}cyclopropyl)-carbamate, 0.78 g of trimethyloxonium tetrafluoroborate (Meerwein salt), and 1 mL of diisopropylethylamine (Hünig base) were refluxed in 20 mL of dichloromethane for 2 hours, then another 1 mL of Hünig base and 0.5 g of Meerwein salt were added and the mixture was refluxed again for 2 hours. After cooling, the mixture was extracted 3× with water, and the organic phase was dried over MgSO4 and evaporated down to the residue. Yield: 1.05 g of crude.

reactant | allyl(1-{4-[hydroxy-(2-oxobenzofuran-3-ylidene)methyl]phenyl}cyclopropyl)-carbamate | 1 g | C(C=C)OC(NC1(CC1)C1=CC=C(C=C1)C(=C1C(OC2=C1C=CC=C2)=O)O)=O | C22H19NO5
reactant | trimethyloxonium tetrafluoroborate | 0.78 g | F[B-](F)(F)F.C[O+](C)C
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Hünig base | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trimethyloxonium tetrafluoroborate | 0.5 g | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | allyl(1-{4-[methoxy-(2-oxobenzofuran-3-yliden)methyl]phenyl}cyclopropyl)-carbamate | C(C=C)OC(NC1(CC1)C1=CC=C(C=C1)C(=C1C(OC2=C1C=CC=C2)=O)OC)=O | C23H21NO5
